US04891375
EXAMPLE 23 4-(4-(2-(4-(3-Benzisothiazolyl)piperazinyl)ethyl)phenyl)-2-methylthiazole
To a 100 ml round-bottomed flask equipped with condenser and N2 inlet were added 0.95 g (4.34 mmol) 3-piperazinyl-benzisothiazole, 1.38 g (4.34 mmol) 4-(4-(2-chloroethyl)phenyl)-thiazol-2-one hydrobromide, 1.51 ml (8.68 mmol) diisopropylethylamine, 0.92 g (8.68 mmol) sodium carbonate, 2 mg. sodium iodide, and 40 ml methylisobutylketone. The reaction was refluxed 6 days, cooled, and evaporated. The residue was chromatographed on silica gel using methylene chloride/ethyl acetate as eluent and the product fractions taken up in ether/methylene chloride and precipitated by addition of ether saturated with HCl. The precipitate was filtered and dried to give a solid, m.p. 135-140° C., 1.09 g (51%). NMR (DMSO-d6) 2.74 (s, 3H), 3.1-3.7 (m, 10H), 4.1 (d, 2h), 7.3-8.2 (m, 9H).

reactant | 3-piperazinyl-benzisothiazole | 4.34 mmol, 0.95 g | N1(CCNCC1)C1=NSC2=C1C=CC=C2 | C11H13N3S
reactant | 4-(4-(2-chloroethyl)phenyl)-thiazol-2-one hydrobromide | 4.34 mmol, 1.38 g | Br.ClCCC1=CC=C(C=C1)C=1NC(SC1)=O
reactant | diisopropylethylamine | 8.68 mmol, 1.51 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium carbonate | 8.68 mmol, 0.92 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | [I-].[Na+]
solvent | methylisobutylketone | 40 ml | CC(=O)CC(C)C | C6H12O
product | 4-(4-(2-(4-(3-Benzisothiazolyl)piperazinyl)ethyl)phenyl)-2-methylthiazole | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCC2=CC=C(C=C2)C=2N=C(SC2)C | C23H24N4S2
